US05104559
bis(4-(1-(3-phenoxyphenoxy)-1,2,3,3,3-pentafluoropropoxy)phenyl) ether.
Other preferred compounds of the invention include 1,1,1,3,3,3-hexafluoro-2,2-bis(4-(1,2,3,3,3-pentafluoro-1-phenoxypropoxy)phenyl)propane, 1,3-bis(4-(1,2,3,3,3-pentafluoro-1-phenoxypropoxy)benzene, 1-(3-phenoxy-phenoxy)-1-(3-(3-phenoxyphenoxy)phenoxy)-1,2,3,3,3-pentafluoropropane, 4-phenylthio-4'-(1-(3-methoxyphenoxy)-1,2,3,3,3-pentafluoropropoxy)benzophenone, 4-phenoxy-4'-(1-phenoxy-1 ,2,3,3,3-pentafluoropropoxy)benzophenone, 4-(3-phenoxyphenoxy)-4'-(1,1,2,3,3,3-hexafluoropropoxy)benzophenone, and 4-(2-pyridyloxy)-4'-(1-phenoxy-1,2,3,3,3-pentafluoropropoxy)benzophenone.

reactant | 1,1,1,3,3,3-hexafluoro-2,2-bis(4-(1,2,3,3,3-pentafluoro-1-phenoxypropoxy)phenyl)propane | FC(C(C(F)(F)F)(C1=CC=C(C=C1)OC(C(C(F)(F)F)F)(F)OC1=CC=CC=C1)C1=CC=C(C=C1)OC(C(C(F)(F)F)F)(OC1=CC=CC=C1)F)(F)F | C33H20F16O4
reactant | 4-(1,2,3,3,3-pentafluoro-1-phenoxypropoxy)benzene | FC(C(C(F)(F)F)F)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C15H11F5O2
reactant | 1-(3-phenoxy-phenoxy)-1-(3-(3-phenoxyphenoxy)phenoxy)-1,2,3,3,3-pentafluoropropane | O(C1=CC=CC=C1)C=1C=C(OC(C(C(F)(F)F)F)(F)OC2=CC(=CC=C2)OC2=CC(=CC=C2)OC2=CC=CC=C2)C=CC1 | C33H23F5O5
reactant | 4-phenylthio-4'-(1-(3-methoxyphenoxy)-1,2,3,3,3-pentafluoropropoxy)benzophenone | C1(=CC=CC=C1)SC1=CC=C(C(=O)C2=CC=C(C=C2)OC(C(C(F)(F)F)F)(F)OC2=CC(=CC=C2)OC)C=C1 | C29H21F5O4S
reactant | 4-phenoxy-4'-(1-phenoxy-1 ,2,3,3,3-pentafluoropropoxy)benzophenone | O(C1=CC=CC=C1)C1=CC=C(C(=O)C2=CC=C(C=C2)OC(C(C(F)(F)F)F)(F)OC2=CC=CC=C2)C=C1 | C28H19F5O4
reactant | 4-(3-phenoxyphenoxy)-4'-(1,1,2,3,3,3-hexafluoropropoxy)benzophenone | O(C1=CC=CC=C1)C=1C=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)OC(C(C(F)(F)F)F)(F)F)C=C2)C=CC1 | C28H18F6O4
reactant | 4-(2-pyridyloxy)-4'-(1-phenoxy-1,2,3,3,3-pentafluoropropoxy)benzophenone | N1=C(C=CC=C1)OC1=CC=C(C(=O)C2=CC=C(C=C2)OC(C(C(F)(F)F)F)(F)OC2=CC=CC=C2)C=C1 | C27H18F5NO4
product | bis(4-(1-(3-phenoxyphenoxy)-1,2,3,3,3-pentafluoropropoxy)phenyl) ether | O(C1=CC=CC=C1)C=1C=C(OC(C(C(F)(F)F)F)(OC2=CC=C(C=C2)OC2=CC=C(C=C2)OC(C(C(F)(F)F)F)(F)OC2=CC(=CC=C2)OC2=CC=CC=C2)F)C=CC1 | C42H28F10O7
